US07691882B2
3-(3-(3-Fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (5.00 mL) solution of (3-fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-phenyl)-acetohydroximoyl chloride (170 mg, 0.554 mmol) described in Manufacturing Example 94-1-3 and 3-ethynyl-pyridin-2-ylamine (40.0 mg, 0.339 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (142 μL, 1.02 mmol) at room temperature, which was stirred for 4 hours at room temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:3→1:2) to obtain the title compound (18.0 mg, 13.5%).

reactant | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
reactant | (3-fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-phenyl)-acetohydroximoyl chloride | 0.554 mmol, 170 mg | FC=1C=C(C=CC1OCC1=NC=C(C=C1)F)CC(=NO)Cl | C14H11ClF2N2O2
reactant | 3-ethynyl-pyridin-2-ylamine | 0.339 mmol, 40.0 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.02 mmol, 142 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(3-Fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 18.0 mg, 13.5% | FC=1C=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=CC1OCC1=NC=C(C=C1)F | C21H16F2N4O2
